US06268387B1
3-(1-Methyl-1H-imidazole-4-sulfonylamino)-4-methoxy-N-phenyl-benzamide
Pyridine (25 mL) was added to a mixture of 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10 mmol) and 1-methylimidazole-4-sulfonyl chloride (1.82 g, 10 mmol) and the mixture agitated then allowed to stand at room temperature. After 4 days, the mixture was partitioned between ethyl acetate (400 mL) and water (400 mL). The insoluble material was collected by filtration, washed with water, and air dried. The organic extract was washed with water (2×400 mL), 1N HCl (100 mL), and brine (100 mL), then dried over magnesium sulfate, filtered, and stripped of solvent. The residue was combined with the solid obtained above to afford the product (3.07 g); m.p. 250-252° C., after trituration in hexanes/ethyl acetate (1:1).

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 1-methylimidazole-4-sulfonyl chloride | 10 mmol, 1.82 g | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | Pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1-Methyl-1H-imidazole-4-sulfonylamino)-4-methoxy-N-phenyl-benzamide | 3.07 g | CN1C=NC(=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C18H18N4O4S
